US08022222B2
A 50 mL round bottom flask was charged with N-(4-methylthiazol-2-yl)-4-(phenylthio)pyridin-2-amine (0.050 g, 0.17 mmol) and dichloromethane (5 mL). The solution was cooled to 0° C., then MCPBA (0.029 g, 0.17 mmol) was added and the reaction mixture was stirred at room temperature for 2 hours. An additional 15 mg of MCPBA were added and the reaction mixture was stirred overnight. The reaction mixture was quenched with sodium bisulfite and extracted with dichloromethane. The organic layer was washed with a saturated solution of NaHCO3. The organic layer was dried over magnesium sulfate, filtered and concentrated. The residue was purified using preparative TLC with 35% EtOAc in hexanes as the solvent system to afford 4-methyl-N-(4-(phenylsulfinyl)pyridin-2-yl)thiazol-2-amine as a light yellow solid. 1H NMR (CDCl3) δ 8.34 (d, 1H), 7.48-7.73 (m, 5H), 7.25 (s, 1H), 6.93 (dd, 1H), 6.41 (s, 1H), 2.36 (d, 3H); Mass spectrum (apci) m/z=316 (100) (M+H).

reactant | N-(4-methylthiazol-2-yl)-4-(phenylthio)pyridin-2-amine | 0.17 mmol, 0.050 g | CC=1N=C(SC1)NC1=NC=CC(=C1)SC1=CC=CC=C1 | C15H13N3S2
reactant | MCPBA | 0.17 mmol, 0.029 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | MCPBA | 15 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-methyl-N-(4-(phenylsulfinyl)pyridin-2-yl)thiazol-2-amine | CC=1N=C(SC1)NC1=NC=CC(=C1)S(=O)C1=CC=CC=C1 | C15H13N3OS2
